US06869952B2
A mixture of 6-(3-methanesulfonyl-propoxy)-5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazine (1.1 g, 3.04 mmol), HCl (1N, 20 mL) and ethanol (20 mL) was heated at 80° C. for 3 h. The volatiles were removed in vacuo. The white solid was triturated with diethyl ether/hexane (2:1) to afford 6-(3-methanesulfonyl-propoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-4-ol (820 mg, 95%) as a white solid MS: (M+H)+=286.

reactant | 6-(3-methanesulfonyl-propoxy)-5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazine | 3.04 mmol, 1.1 g | CS(=O)(=O)CCCOC=1C(=C2C(=NC=NN2C1)OC1=CC=CC=C1)C | C17H19N3O4S
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-(3-methanesulfonyl-propoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-4-ol | 820 mg, 95% | CS(=O)(=O)CCCOC=1C(=C2C(=NC=NN2C1)O)C | C11H15N3O4S
